US08426411B2
To a slurry of Lindlar catalyst (0.844 g, 0.396 mmol) in THF (100 mL) and pyridine (10.00 mL) was added ethyl pent-2-ynoate (5.22 mL, 39.6 mmol). The reaction mixture was sparged with hydrogen for about 10 min and an atmosphere of hydrogen was maintained via balloon. After about 15 h the reaction mixture was filtered through a pad of Celite®, diluted with Et2O (30 mL) and washed with saturated aqueous CuSO4 (40 mL), followed by water (40 mL). The organic layer was separated, dried over anhydrous MgSO4, filtered, and concd in vacuo to provide crude (Z)-ethyl pent-2-enoate (5 g, 98%). 1H NMR (DMSO-d6) δ 1.05 (t, 3H), 1.28 (t, 3H), 2.65 (m, 2H), 4.18 (q, 2H), 5.72 (m, 1H), 6.21 (m, 1H).

reactant | ethyl pent-2-ynoate | 39.6 mmol, 5.22 mL | C(C#CCC)(=O)OCC | C7H10O2
catalyst | Lindlar catalyst | 0.396 mmol, 0.844 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | pyridine | 10.00 mL | N1=CC=CC=C1 | C5H5N
product | (Z)-ethyl pent-2-enoate | 5 g, 98% | C(\C=C/CC)(=O)OCC | C7H12O2
